US07786108B2
Step 2. Preparation of (S)-4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-cyclohexanecarboxylic acid
To a solution of (S)-4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-cyclohexanecarboxylic acid ethyl ester (0.14 mmol) in methanol (5 mL), add 5N sodium hydroxide (14 mmol). After heating the mixture at 60° C. for 2 h, cool to room temperature and dilute with water (20 mL). Neutralize the mixture using 5M HCl and extract the organics using ethyl actate (3×5 mL). Dry the combined organics over sodium sulfate, filter, and remove the solvent under vacuum. Chromatograph the crude product over silica gel, eluting with methanol/dichloromethane (0-5%) to obtain the separated cis and trans isomers. MS (ES+): 679 (M+H).

reactant | (S)-4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-cyclohexanecarboxylic acid ethyl ester | 0.14 mmol | C(C)OC(=O)C1CCC(CC1)N1C2=C([C@H](CCC1)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2)C(F)(F)F)C | C32H35F9N6O2
reactant | sodium hydroxide | 14 mmol, 5N | [OH-].[Na+]
reactant | HCl | 5M | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | (S)-4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-cyclohexanecarboxylic acid | FC(C=1C=C(CN([C@@H]2C3=C(N(CCC2)C2CCC(CC2)C(=O)O)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C30H31F9N6O2
